US06174889B1
6-(5-Methyl-1,3,4-oxadiazol-2-yl)-pyrido[3,4-d]pyrimidin-4-one
6-(1,2,3,4-Tetrazol-5-yl)-pyrido[3,4-d]pyrimidin-4-one (1.4 g) in acetic anhydride (10 ml) was heated at reflux under N2 for 2.5 hours. The cooled mixture was absorbed onto silica and purified by chromatography to give the title compound 90.14 g) as a beige solid; δH [2H6]DMSO 13.0(1H,bs), 9.30 (1H,s), 8.66 (1H,s), 8.47 (1H,s) 2.75 (3H,s); m/z (M+1+)230.

reactant | 6-(1,2,3,4-Tetrazol-5-yl)-pyrido[3,4-d]pyrimidin-4-one | 1.4 g | N1N=NN=C1C1=CC2=C(N=CNC2=O)C=N1 | C8H5N7O
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-(5-Methyl-1,3,4-oxadiazol-2-yl)-pyrido[3,4-d]pyrimidin-4-one | 90.14 g | CC1=NN=C(O1)C1=CC2=C(N=CNC2=O)C=N1 | C10H7N5O2
